US05491155
A solution comprised of 5 g of 60 percent pure 4-chloro-3-methoxy-1,2,5-thiadiazole in 30 mL of carbon tetrachloride was irradiated over a period of 45 minutes at 80° C. with a sunlamp while adding a solution comprised of 5 g of sulfuryl chloride in 20 mL of carbon tetrachloride. The reaction mixture was then washed with 30 mL of asaturated aqueous sodium bicarbonate solution and concentrated under reduced pressure to yield 4.87 grams of 4-chloro-3-chloromethoxy-1,2,5-thiadiazole.

reactant | 4-chloro-3-methoxy-1,2,5-thiadiazole | 5 g | ClC=1C(=NSN1)OC | C3H3ClN2OS
reactant | sulfuryl chloride | 5 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | carbon tetrachloride | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-chloro-3-chloromethoxy-1,2,5-thiadiazole | 4.87 grams, yield of 37 percent | ClC=1C(=NSN1)OCCl | C3H2Cl2N2OS
